US03962291
To a solution containing 13.3 parts of 2-(6-methoxy-3,4-dihydro-1-naphthyl)-2-propen-1-yl trimethylammonium iodide in 200 parts by volume of methanol and 1 part by volume of water is added 4.1 parts of silver oxide and the resulting reaction mixture is stirred for approximately 2 hours. At the end of that time the mixture is filtered into a container holding 4 parts of 2-methylcyclopentane-1,3-dione. The resulting solution is concentrated to a small volume and 500 parts by volume of xylene, 5 parts by volume of hexamethylphosphoramide and 5 parts by volume of triethylamine are added. Approximately 50 parts by volume of solvent is removed by distillation and the resulting mixture is heated gently at the reflux temperature for about 20 hours, then allowed to cool. That solution is washed successively with water, 5% hydrochloric acid, water, 5% aqueous sodium bicarbonate and water again, after which time the mixture is dried over anhydrous sodium sulfate and concentrated to a small residue. Crystallization of that crude product from methanol affords 2-(6-methoxy-3,4-dihydro-1-naphthyl)-3-(2-methylcyclopentane-1,3-dione-2-yl)propene, melting at about 81°-82° and displaying an ultraviolet absorption at about 274 millimicrons with a molecular extinction coefficient of approximately 10,400.

reactant | 2-(6-methoxy-3,4-dihydro-1-naphthyl)-2-propen-1-yl trimethylammonium iodide | [I-].COC=1C=C2CCC=C(C2=CC1)C(C[N+](C)(C)C)=C
reactant | methanol | CO | CH4O
catalyst | silver oxide | [Ag]=O
solvent | water | O | H2O
product | 2-(6-methoxy-3,4-dihydro-1-naphthyl)-3-(2-methylcyclopentane-1,3-dione-2-yl)propene | COC=1C=C2CCC=C(C2=CC1)C(=C)CC1(C(CCC1=O)=O)C | C20H22O3
